US05486466
To a solution of 4.61 g of methyl 3,5-dihydroxy-2-methyl-6-propylbenzoate in 20 ml of methylene chloride were added at 0° C. within 30 minutes 50 ml of a 1M solution of boron tribromide in methylene chloride. The mixture was stirred for 5 hours at room temperature and then diluted with 100 ml of ethyl acetate. The mixture was washed with water and with brine, and the organic layer was dried over sodium sulfate and evaporated in vacuo to yield crude 3,5-dihydroxy-2-methyl-6-propylbenzoic acid.

reactant | methyl 3,5-dihydroxy-2-methyl-6-propylbenzoate | 4.61 g | OC=1C(=C(C(=O)OC)C(=C(C1)O)CCC)C | C12H16O4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3,5-dihydroxy-2-methyl-6-propylbenzoic acid | OC=1C(=C(C(=O)O)C(=C(C1)O)CCC)C | C11H14O4
